US05126347
Synthesis of (2R-trans)-tetrahydro-4-[[(4-methylphenyl) sulfonyl]oxy]-2-furanmethanol (Compound IV(c))
A mixture of (3S-trans)-tetrahydro-5-(dimethoxymethyl)-3-furanol-4-methylbenzenesulfonate, (Compound IV(e), 10.0 g, 31.6 mmole), 1% CF3CO2H (50 mL), and dioxane (80 mL) in a 250 mL round bottom flask fitted with a reflux condenser was warmed to 80° C. for five hours. After cooling to room temperature, the solution was adjusted to pH 7.0 using 1N NaOH, treated with NaBH4 (1.2 g, 31.7 mmole), and allowed to stir at room temperature for an additional 30 minutes. The solvent was partially removed, then extracted with EtOAc (100 mL×3). The organic fraction was dried over MgSO4, filtered, evaporated and purified by flash column chromatorgraphy (60% EtOAc/40% Hexane) to afford 3.6 g or recovered starting material and 2.7 g (49% based on recovered starting material) of Compound IV(c).

reactant | (3S-trans)-tetrahydro-5-(dimethoxymethyl)-3-furanol 4-methylbenzenesulfonate | 31.6 mmole, 10.0 g | COC([C@H]1C[C@@H](CO1)O)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | CF3CO2H | 50 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaBH4 | 31.7 mmole, 1.2 g | [BH4-].[Na+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (2R-trans)-tetrahydro-4-[[(4-methylphenyl) sulfonyl]oxy]-2-furanmethanol | CC1=CC=C(C=C1)S(=O)(=O)O[C@H]1C[C@@H](OC1)CO | C12H16O5S
